US08080563B2
A mixture of methyl 3-(cyclopentyloxy)-4-methoxy-2-nitrobenzoate (750 mg, 2.54 mmol), 10% Pd/C (50% H2O, 500 mg, 0.23 mmol Pd), and methanol (10 mL) was stirred vigorously at rt under an atmosphere of H2. After 21 h, the mixture was filtered through Celite and concentrated to give methyl 2-amino-3-(cyclopentyloxy)-4-methoxybenzoate: MS (ESI): 266.5.

reactant | methyl 3-(cyclopentyloxy)-4-methoxy-2-nitrobenzoate | 2.54 mmol, 750 mg | C1(CCCC1)OC=1C(=C(C(=O)OC)C=CC1OC)[N+](=O)[O-] | C14H17NO6
catalyst | Pd/C | 0.23 mmol, 500 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | methyl 2-amino-3-(cyclopentyloxy)-4-methoxybenzoate | NC1=C(C(=O)OC)C=CC(=C1OC1CCCC1)OC | C14H19NO4
